US07790431B2
D-Erythrose 4-phosphate (0.45 mL, 12 mM, pH 7.0), sodium pyruvate (0.054 mL, 100 mM, pH 7.0), CoCl2 (0.027 mL, 10 mM), NAD (0.054 mL, 1 mM), DHQ synthase (2 units) and DHQ dehydratase (2 units) are incubated with KDPGal aldolase (100 units) from E. coli at room temperature for 2 h. Protein is subsequently removed by ultrafiltration using Millipore PM-10 membrane. 3-Dehydroshikimate was formed in 90% yield, as determined by 1H NMR analysis.

reactant | D-Erythrose 4-phosphate | 12 mM, 0.45 mL, pH 7.0 | P(=O)(O)(O)OC[C@H]([C@H](C=O)O)O | C4H9O7P
reactant | sodium pyruvate | 100 mM, 0.054 mL, pH 7.0 | C(C(=O)C)(=O)[O-].[Na+]
reactant | NAD | 1 mM, 0.054 mL | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
product | 3-Dehydroshikimate | 90% yield | C1[C@H]([C@@H](C(=O)C=C1C(=O)O)O)O | C7H8O5
